US09193714B2
A solution of 2-(4-((5-(benzyloxy)-2-(4-(benzyloxy)phenyl)-3-methyl-1H-indol-1-yl)methyl)phenoxy)ethanol (546 mg, 0.96 mmol) in DCM (10 mL) was cooled to 0° C. Triethylamine (0.2 mL, 1.43 mmol) and methanesulfonyl chloride (0.1 mL, 1.29 mmol) were added and the reaction was stirred at 0° C. for 1 h. The reaction was diluted with DCM (30 mL) and then washed with 1M HCl (20 mL), washed with water (20 mL), dried (MgSO4), filtered and concentrated under vacuum to give 597 mg of 2-(4-((5-(benzyloxy)-2-(4-(benzyloxy)phenyl)-3-methyl-1H-indol-1-yl)methyl)phenoxy)ethyl methanesulfonate as a yellow foam. 1H NMR (400 MHz, DMSO-d6): δ 7.48 (d, 4H), 7.44-7.37 (m, 4H), 7.37-7.32 (m, 2H), 7.30 (d, 2H), 7.21 (d, 1H), 7.15-7.10 (m, 3H), 6.83-6.74 (m, 5H), 5.20-5.10 (m, 6H), 4.50-4.45 (m, 2H), 4.17-4.11 (m, 2H), 2.16 (s, 3H). LCMS: 648.1 (M+H)+.

reactant | 2-(4-((5-(benzyloxy)-2-(4-(benzyloxy)phenyl)-3-methyl-1H-indol-1-yl)methyl)phenoxy)ethanol | 0.96 mmol, 546 mg | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(OCCO)C=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C38H35NO4
reactant | Triethylamine | 1.43 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.29 mmol, 0.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((5-(benzyloxy)-2-(4-(benzyloxy)phenyl)-3-methyl-1H-indol-1-yl)methyl)phenoxy)ethyl methanesulfonate | 597 mg | CS(=O)(=O)OCCOC1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C39H37NO6S
